US08034812B2
Production of N-{6-[(2-methyl-1,3-benzothiazol-6-yl)oxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide
Using N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (309 mg, 0.942 mmol), 2-methyl-1,3-benzothiazole-6-ol (250 mg, 1.51 mmol), potassium carbonate (390 mg, 2.83 mmol) and N,N-dimethylformamide (4.0 mL) as starting materials and in the same manner as in Example 95, the title compound (151 mg, 44%) was obtained as a pale-yellow powder.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 0.942 mmol, 309 mg | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | 2-methyl-1,3-benzothiazole-6-ol | 1.51 mmol, 250 mg | CC=1SC2=C(N1)C=CC(=C2)O | C8H7NOS
reactant | potassium carbonate | 2.83 mmol, 390 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
product | N-{6-[(2-methyl-1,3-benzothiazol-6-yl)oxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide | 151 mg, 44% | CC=1SC2=C(N1)C=CC(=C2)OC=2C=CC=1N(N2)C=C(N1)NC(=O)C1CC1 | C18H15N5O2S
